US08557983B2
((3-fluoro-4-nitrophenoxy)methylene)dibenzene
Bromodiphenylmethane (3.5 g) and 3-fluoro-4-nitrophenol were dissolved in N,N-dimethylformamide (30 mL), and then K2CO3 (4.2 g) was added and the reaction stirred at room temperature for 60 hours. The reaction was partitioned between water and ethyl acetate. The organic layer was washed with 2M aqueous Na2CO3 and brine, then dried over Na2SO4. After filtration and concentration, the crude material was purified by column chromatography using 1.5-2.0% ethyl acetate in hexanes.

reactant | Bromodiphenylmethane | 3.5 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | 3-fluoro-4-nitrophenol | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | K2CO3 | 4.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | ((3-fluoro-4-nitrophenoxy)methylene)dibenzene | FC=1C=C(OC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1[N+](=O)[O-] | C19H14FNO3
